US08258160B2
Synthesis of ethyl 4-methyl-2-(4-phenethyl-1H-1,2,3-triazol-1-yl)thiazole-5-carboxylate
Following the procedure as described in Example 12, making variations as necessary to replace 5-phenyl-1-pentyne with 4-phenyl-1-butyne to react with ethyl 2-azido-4-methylthiazole-5-carboxylate, the title compound was obtained as a white solid in 62% yield: 1H NMR (300 MHz, CDCl3) δ 8.05 (s, 1H), 7.33-7.19 (m, 5H), 4.34 (q, J=7.1 Hz, 2H), 3.17-3.03 (m, 4H), 2.71 (s, 3H), 1.39 (t, J=7.1 Hz, 3H); MS (ES+) m/z 343.3 (M+1).

reactant | 5-phenyl-1-pentyne | C1(=CC=CC=C1)CCCC#C | C11H12
reactant | 4-phenyl-1-butyne | C1(=CC=CC=C1)CCC#C | C10H10
reactant | ethyl 2-azido-4-methylthiazole-5-carboxylate | N(=[N+]=[N-])C=1SC(=C(N1)C)C(=O)OCC | C7H8N4O2S
product | ethyl 4-methyl-2-(4-phenethyl-1H-1,2,3-triazol-1-yl)thiazole-5-carboxylate | 62% yield | CC=1N=C(SC1C(=O)OCC)N1N=NC(=C1)CCC1=CC=CC=C1 | C17H18N4O2S
